US05101053
4-(N-(Methacryloylethyl)-carbamoyl)-phenyldimethylsulfonium hexafluoroarsenate
42.5 g of isocyanatoethyl methacrylate were added dropwise to a solution of 86 g of 4-hydroxyphenyldimethylsulfonium hexafluoroarsenate in 870 g of toluene and 443 g of tetrahydrofuran at room temperature. A solution of 3 g of triethylamine in 89 g of tetrahydrofuran was then added in the course of 10 minutes at an internal temperature of from 23° to 26° C., and the reaction mixture was stirred overnight at room temperature. The precipitated crystals were filtered off under suction, washed with toluene and recrystallized from ethanol. Yield: 110 g (88%) of colorless crystals of melting point 95°-97° C.

reactant | isocyanatoethyl methacrylate | 42.5 g | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
reactant | 4-hydroxyphenyldimethylsulfonium hexafluoroarsenate | 86 g | F[As-](F)(F)(F)(F)F.OC1=CC=C(C=C1)[S+](C)C
reactant | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 89 g | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 443 g | O1CCCC1 | C4H8O
solvent | toluene | 870 g | C1(=CC=CC=C1)C | C7H8
product | 4-(N-(Methacryloylethyl)-carbamoyl)-phenyldimethylsulfonium hexafluoroarsenate | F[As-](F)(F)(F)(F)F.C(C(=C)C)(=O)CCNC(=O)C1=CC=C(C=C1)[S+](C)C | InChI=1S/C15H19NO2S.AsF6/c1-11(2)14(17)9-10-16-15(18)12-5-7-13(8-6-12)19(3)4;2-1(3,4,5,6)7/h5-8H,1,9-10H2,2-4H3;/q;-1/p+1
